US07384949B2
7-Bromo-4-(2-furyl)-N-(2-hydroxyethyl)thieno[3,2-d]pyrimidine-2-amine (Example 15)
A solution of 7-bromo-2-chloro-4-(2-furyl)thieno[3,2-d]pyrimidine (110 mg, 0.35 mmol) in 1-methyl-2-pyrrolidinone (1 mL) was treated with ethanolamine (32 μL, 0.52 mmol), heated at 90° C. for 16 h, cooled, poured into water, extracted with EtOAc, dried (MgSO4), concentrated in vacuo and purified by chromatography (SiO2: EtOAc:Heptane, 1:1) to give the title compound (45 mg, 38%) as a yellow solid.

reactant | 7-bromo-2-chloro-4-(2-furyl)thieno[3,2-d]pyrimidine | 0.35 mmol, 110 mg | BrC1=CSC2=C1N=C(N=C2C=2OC=CC2)Cl | C10H4BrClN2OS
reactant | ethanolamine | 0.52 mmol, 32 μL | C(O)CN | C2H7NO
reactant | water | O | H2O
solvent | 1-methyl-2-pyrrolidinone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 7-Bromo-4-(2-furyl)-N-(2-hydroxyethyl)thieno[3,2-d]pyrimidine-2-amine | 45 mg, 38% | BrC1=CSC2=C1N=C(N=C2C=2OC=CC2)NCCO | C12H10BrN3O2S
